US06288126B1
Methyl 4,4″-dihydroxy-(1.1′:2′,1″-terphenyl)-5′-carboxylate
2.7 g of methyl 4,4″-dimethoxy-(1,1′:2′,1″-terphenyl)-5′-carboxylate (product prepared according to J. Med. Chem. (1989) 32 1814-1820) in 30 ml of dichloromethane is cooled down to −30° C., under an inert atmosphere, 2.7 ml of tribromoborane is added and agitation is carried out at −30° C. for 16 hours. The reaction medium is diluted with a saturated solution of sodium acetate, the aqueous phase is extracted with ethyl acetate, the organic phase is dried then evaporated. The crude reaction product is chromatographed on silica eluting with a cyclohexane/ethyl acetate mixture 70/30. In this way 814 mg of expected product is obtained.

reactant | methyl 4,4″-dimethoxy-(1,1′:2′,1″-terphenyl)-5′-carboxylate | 2.7 g | COC1=CC=C(C=C1)C=1C(=CC=C(C1)C(=O)OC)C1=CC=C(C=C1)OC | C22H20O4
reactant | tribromoborane | 2.7 ml | BrB(Br)Br | BBr3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | sodium acetate | C(C)(=O)[O-].[Na+]
product | Methyl 4,4″-dihydroxy-(1.1′:2′,1″-terphenyl)-5′-carboxylate | 814 mg | OC1=CC=C(C=C1)C=1C(=CC=C(C1)C(=O)OC)C1=CC=C(C=C1)O | C20H16O4
